US06100233
Preparation of 2,6-dimethyl-7-octen-2-yl 3-oxo-butyrate
A mixture of dihydromyrcenol (37.88 g, 0.240 mol) and 4-dimethylaminopyridine (0.16 g, 1.30 mmol) in a 100 mL three-necked round-bottomed flask fitted with a condenser, argon inlet, addition funnel, magnetic stirrer and internal thermometer is heated to 50-60° C. Diketene (20.16 g, 0.240 mol) is added dropwise in the course of 15 min. The mixture has a slight exotherm and turned from yellow to red during this time. After stirring an additional hour at 50° C., the mixture is cooled to room temperature. At this point, NMR analysis indicates the reaction is complete. Purification of the product mixture by flash chromatography (elution with dichloromethane) yields the desired product in 95% yield as a nearly colorless oil.

reactant | dihydromyrcenol | 0.240 mol, 37.88 g | CC(CCCC(C)(C)O)C=C | C10H20O
reactant | Diketene | 0.240 mol, 20.16 g | C=C1CC(=O)O1 | C4H4O2
catalyst | 4-dimethylaminopyridine | 1.30 mmol, 0.16 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2,6-dimethyl-7-octen-2-yl 3-oxo-butyrate | 95% yield | O=C(CC(=O)OC(C)(CCCC(C=C)C)C)C | C14H24O3
